US06335334B1
183.) 5-Chloro-2-(4-chloro-phenylsulfonylamino)-N-(4-isopropylmercapto-phenyl)-benzamide
1.00 g (2.21 mmol) of 5-chloro-2-(4-chloro-phenylsulfonylamino)-N-(4-mercapto-phenyl)-benzamide were dissolved in 25 ml of dimethylformamide and 0.25 g (2.21 mmol) of potassium tert-butylate were added. The mixture was stirred at room temperature for 15 min, then 0.27 g (2.21 mmol) of isopropyl bromide were added dropwise, and the mixture was heated to 60° C. for 8 h. For working up it was poured onto water and extracted with ethyl acetate. The combined extracts were evaporated and the residue was purified by chromatography over silica with hexane/ethyl acetate (3:1). 420 mg (39%) of the title compound having a melting point of 168-169° C. were obtained.

reactant | 5-chloro-2-(4-chloro-phenylsulfonylamino)-N-(4-mercapto-phenyl)-benzamide | 2.21 mmol, 1.00 g | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)S)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C19H14Cl2N2O3S2
reactant | potassium tert-butylate | 2.21 mmol, 0.25 g | CC(C)(C)[O-].[K+]
reactant | isopropyl bromide | 2.21 mmol, 0.27 g | C(C)(C)Br | C3H7Br
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-2-(4-chloro-phenylsulfonylamino)-N-(4-isopropylmercapto-phenyl)-benzamide | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)SC(C)C)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C22H20Cl2N2O3S2
